.subckt mux4_x1 D0 D1 D2 D3 S0 S1 X VDD VSS
XM4S0_P0 s0_b S0 VDD VDD pmos w=2u l=100n
XM4S0_N0 s0_b S0 VSS VSS nmos w=1u l=100n
XM4S1_P0 s1_b S1 VDD VDD pmos w=2u l=100n
XM4S1_N0 s1_b S1 VSS VSS nmos w=1u l=100n
XM4a0_MP0 mux_m01 S0 D0 VDD pmos w=2u l=100n
XM4a0_MN0 mux_m01 s0_b D0 VSS nmos w=1u l=100n
XM4a0_MP1 mux_m01 s0_b D1 VDD pmos w=2u l=100n
XM4a0_MN1 mux_m01 S0 D1 VSS nmos w=1u l=100n
XM4b0_MP0 mux_m23 S0 D2 VDD pmos w=2u l=100n
XM4b0_MN0 mux_m23 s0_b D2 VSS nmos w=1u l=100n
XM4b0_MP1 mux_m23 s0_b D3 VDD pmos w=2u l=100n
XM4b0_MN1 mux_m23 S0 D3 VSS nmos w=1u l=100n
XM4c0_MP0 X S1 mux_m01 VDD pmos w=2u l=100n
XM4c0_MN0 X s1_b mux_m01 VSS nmos w=1u l=100n
XM4c0_MP1 X s1_b mux_m23 VDD pmos w=2u l=100n
XM4c0_MN1 X S1 mux_m23 VSS nmos w=1u l=100n
.ends mux4_x1
